US04959366
(C) 2-[N-Methyl-N-(4-nitrophenethyl)amino]-1-(4-nitrophenylthio)ethane
2-[N-Methyl-N-(4-nitrophenethyl)amino]ethyl chloride hydrochloride (3.0 g), 4-nitrothiophenol (1.7 g) and potassium carbonate (4.0 g) in acetonitrile (100 ml) were stirred at reflux for 16 hours. After evaporation, the residue was partitioned between water and ethyl acetate. The organic liquors were washed with saturated aqueous brine, dried (MgSO4), filtered and evaporated to give an orange oil (3.6 g). Chromatography on silica ("Kieselgel 60"-Trade Mark) eluting with ethyl acetate followed by collection of suitable fractions gave on evaporation the title compound as a yellow solid, (3.05 g), m.p. 56°-7°.

reactant | 2-[N-Methyl-N-(4-nitrophenethyl)amino]ethyl chloride hydrochloride | 3.0 g | Cl.CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CCCl
reactant | 4-nitrothiophenol | 1.7 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-[N-Methyl-N-(4-nitrophenethyl)amino]-1-(4-nitrophenylthio)ethane | 3.6 g | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CCSC1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O4S
